US04775223
40 ml of thionyl chloride was added to 2.0 g of p-octyloxybenzoic acid, andthe mixture was refluxed under heat for 2 hours. Then, excess of thionyl chloride was distilled off to obtain p-octyloxybenzoic acid chloride. 20 ml of dry pyridine was added thereto, and the 4-hydroxy-4'-α-dodecyloxypropanoyloxybiphenyl dissolved in 40 ml of dry benzene was further added. The mixture was then refluxed for 5 hours, charged into ice water, and extracted with ether. The extract was purifiedwith a silica gel column chromatography to obtain 4'-α-dodecyloxypropanoyloxybiphenyl ester of 4-octyloxybenzoic acid.

reactant | p-octyloxybenzoic acid | 2.0 g | C(CCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | p-octyloxybenzoic acid chloride | C(CCCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C15H21ClO2
